US04279637
PREPARATION OF ETHYL [4-(3,4-DICHLOROPHENOXY)-3-(ETHYLTHIO) PHENYL]CARBAMATE
4-(3,4-Dichlorophenoxy)-3-(ethylthio)benzenamine, (0.1 mole) and pyridine (50 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and are cooled to about 5° C. Ethyl chloroformate (0.125 mole) is added, with stirring, at about 5° C. Stirring is continued for a period of about 30 minutes at about 5° C., then for an additional 16 hours at room temperature. The mixture is then washed in 2 portions of water (50 ml), dried and the solvent is then removed to yield the desired product ethyl [4-(3,4-dichlorophenoxy)-3-(ethylthio)phenyl]carbamate.

reactant | 4-(3,4-Dichlorophenoxy)-3-(ethylthio)benzenamine | 0.1 mole | ClC=1C=C(OC2=C(C=C(C=C2)N)SCC)C=CC1Cl | C14H13Cl2NOS
reactant | Ethyl chloroformate | 0.125 mole | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl [4-(3,4-dichlorophenoxy)-3-(ethylthio)phenyl]carbamate | ClC=1C=C(OC2=C(C=C(C=C2)NC(OCC)=O)SCC)C=CC1Cl | C17H17Cl2NO3S
